### PR TITLE
feat(HilbertProblems): formalize Hilbert-Smith conjecture

### LINKED ISSUE #2188: Formalize the Hilbert–Smith conjecture
### What is the conjecture

 Let $G$ be a locally compact topological group which acts continuously and faithfully (effectively) on a connected finite-dimensional manifold $X$. Then $G$ is isomorphic to a Lie group.

Equivalently: A locally compact group $G$ cannot act continuously and effectively on any connected finite-dimensional manifold unless $G$ is a Lie group.

The conjecture was originally formulated by David Hilbert and proved in the analytic case by Aurel Wintner. The full conjecture remains open, though significant progress has been made: in 2013, John Pardon proved it for three-dimensional manifolds.

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://en.wikipedia.org/wiki/Hilbert%E2%80%93Smith_conjecture, https://terrytao.wordpress.com/2011/08/13/the-hilbert-smith-conjecture/, https://arxiv.org/abs/1112.2324, https://arxiv.org/abs/math/0103145, https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Manifold/Algebra/LieGroup.html

### Prerequisites needed

**Formalizability Rating:** 2/5 (0 is best) (as of 2026-02-06)

Building blocks (from Mathlib):
- `LocallyCompactSpace`: Type class for locally compact topological spaces
- `LieGroup`: Structure combining a group with a smooth manifold, with smooth group operations
- `MulAction` and `DistribMulAction`: Framework for group/monoid actions on sets/modules, with continuous action instances

Missing pieces:
- Formal definition of "faithful action" for topological groups (though `MulAction.faithful` exists for abstract actions, adapting it to continuous group actions on manifolds needs care)
- Infrastructure to express "connected finite-dimensional manifold" as a type-class property (finite-dimensionality is not uniformly characterized in Mathlib's manifold design)

Rating justification: The basic objects (locally compact groups, Lie groups, continuous actions on manifolds) exist in Mathlib. Writing the statement requires combining these existing definitions with care for faithfulness and connectedness, which are present but may need minor adaptations. The conjecture is stateable with moderate additional work.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-22
* ams-57
* ams-58

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### PR DESCRIPTION
**Pull request by goyaladitya05**
Closes #2188

Formalization done with the help of Claude Sonnet 4.6.
Verified the lake build myself locally.

### CODE REVIEW

**Comment by franzhusch** [comment]
You could also make duplicate statement in the Hilberts Problem Folder for 5th Hilbert Problem Statement. You can view the best practice for making duplicate statements here #3471

**Comment by goyaladitya05** [comment]
@franzhusch I've added the file. Thanks.

**Comment by goyaladitya05** [comment]
Rebased it, CI should pass now.

File: FormalConjectures/HilbertProblems/5.lean [hunk 1]
```diff
@@ -0,0 +1,116 @@
...
+
+open scoped Manifold ContDiff EuclideanGeometry
+
+/-- A topological group `G` admits a Lie group structure if there exists a finite-dimensional
+smooth manifold structure on `G` making it a real Lie group. -/
+def AdmitsLieGroupStructure (G : Type*) [Group G] [TopologicalSpace G] : Prop :=
+  ∃ (k : ℕ) (cs : ChartedSpace (EuclideanSpace ℝ (Fin k)) G),
+    letI := cs
+    LieGroup (𝓡 k) ⊤ G
+
```
Comment (mo271) [inline FormalConjectures/HilbertProblems/5.lean:49]:
```suggestion

variable {G : Type*} [Group G] [TopologicalSpace G]
variable {n : ℕ} {X : Type*} [TopologicalSpace X] [T2Space X] [ConnectedSpace X]
  [ChartedSpace (EuclideanSpace ℝ (Fin n)) X]

/-- Every Lie group trivially admits a Lie group structure. -/
@[category API, AMS 22]
theorem admitsLieGroupStructure_of_lieGroup
    [ChartedSpace (EuclideanSpace ℝ (Fin n)) G] [LieGroup (𝓡 n) ⊤ G] :
    AdmitsLieGroupStructure G :=
  ⟨n, inferInstance, inferInstance⟩

/-- A group admitting a Lie group structure is locally compact. -/
@[category API, AMS 22]
theorem locallyCompact_of_admitsLieGroupStructure
    (h : AdmitsLieGroupStructure G) : LocallyCompactSpace G := by
  obtain ⟨k, cs, _⟩ := h
  haveI := cs
  haveI := (𝓡 k).locallyCompactSpace
  exact ChartedSpace.locallyCompactSpace (EuclideanSpace ℝ (Fin k)) G
```

Let's move the API tests and notice how I use `variable`. Using those more can clean up your file a lot, please do so. 

For instance already with those `variable` defs the rest of the file becomes 
```lean
/-- **Hilbert–Smith conjecture**: every locally compact topological group acting continuously
and faithfully on a connected finite-dimensional topological manifold is a Lie group. -/
@[category research open, AMS 22 57 58]
theorem hilbert_smith_conjecture
    [IsTopologicalGroup G] [LocallyCompactSpace G]
    [MulAction G X] [ContinuousSMul G X] [FaithfulSMul G X] :
    AdmitsLieGroupStructure G := by
  sorry

/-- The conjecture holds when `G` acts by isometries on a Riemannian manifold, since `G`
embeds as a closed subgroup of the isometry group, which is a Lie group by Myers–Steenrod. -/
@[category research solved, AMS 22 53 57 58]
theorem hilbert_smith_conjecture.variants.riemannian
    [IsTopologicalGroup G] [LocallyCompactSpace G]
    [MulAction G X] [ContinuousSMul G X] [FaithfulSMul G X]
    [MetricSpace X] [IsManifold (𝓡 n) ∞ X]
    (hiso : ∀ g : G, Isometry (g • · : X → X)) :
    AdmitsLieGroupStructure G := by
  sorry

/-- Pardon (2013): the Hilbert–Smith conjecture holds for 3-dimensional manifolds.
See [arXiv:1112.2324](https://arxiv.org/abs/1112.2324). -/
@[category research solved, AMS 22 57 58]
theorem hilbert_smith_conjecture.variants.dimension_three {X : Type*}
    [TopologicalSpace X] [T2Space X] [ConnectedSpace X]
    [ChartedSpace (EuclideanSpace ℝ (Fin 3)) X]
    [IsTopologicalGroup G] [LocallyCompactSpace G]
    [MulAction G X] [ContinuousSMul G X] [FaithfulSMul G X] :
    AdmitsLieGroupStructure G := by
  sorry

/-- Equivalent p-adic formulation: the p-adic integers `ℤ_[p]` cannot act continuously and
faithfully on any connected finite-dimensional topological manifold. By the Gleason–Yamabe
theorem, this is equivalent to `hilbert_smith_conjecture`. -/
@[category research open, AMS 22 57 58]
theorem hilbert_smith_padic_formulation (p : ℕ) [Fact p.Prime]
    [AddAction (PadicInt p) X] [ContinuousVAdd (PadicInt p) X]
    (hfaithful : ∀ g₁ g₂ : PadicInt p, (∀ x : X, g₁ +ᵥ x = g₂ +ᵥ x) → g₁ = g₂) :
    False := by
  sorry

/-- **Hilbert's fifth problem** (Gleason–Montgomery–Zippin, 1952): every locally Euclidean
topological group is a Lie group. -/
@[category research solved, AMS 22 57]
theorem hilbert_fifth_problem
    [IsTopologicalGroup G]
    [ChartedSpace (EuclideanSpace ℝ (Fin n)) G] [T2Space G] [LocallyConnectedSpace G] :
    LieGroup (𝓡 n) ⊤ G := by
  sorry
```

**Review by mo271 — COMMENTED** [review]
Thanks, looks good, just some suggestions for restructure. 
I'm not 100% convinced that we need the `AdmitsLieGroupStructure` definition at all, but I suppose it is convenient.

File: FormalConjectures/HilbertProblems/5.lean (hunk 1 above)
Comment (goyaladitya05) [reply FormalConjectures/HilbertProblems/5.lean:49]: Thanks for the suggestions. I've applied all of them, but kept `AdmitsLieGroupStructure` for now, since I felt it does clean things up across the formulations.

**Comment by goyaladitya05** [comment]
@mo271 Do I need to make any more changes to this, or is it good to go?

File: FormalConjectures/HilbertProblems/5.lean [hunk 2]
```diff
@@ -0,0 +1,116 @@
...
+connected finite-dimensional topological manifold.
+
+*References:*
+- [Wikipedia](https://en.wikipedia.org/wiki/Hilbert%E2%80%93Smith_conjecture)
+- [Tao's blog](https://terrytao.wordpress.com/2011/08/13/the-hilbert-smith-conjecture/)
+- [Pardon 2013, arXiv:1112.2324](https://arxiv.org/abs/1112.2324)
+- [arXiv:math/0103145](https://arxiv.org/abs/math/0103145)
+-/
+
+namespace HilbertSmith
```
Comment (mo271) [inline FormalConjectures/HilbertProblems/5.lean]:
```suggestion
namespace Hilbert5
```

File: FormalConjectures/HilbertProblems/5.lean [hunk 3]
```diff
@@ -0,0 +1,116 @@
...
+/-- **Hilbert's fifth problem** (Gleason–Montgomery–Zippin, 1952): every locally Euclidean
+topological group is a Lie group. -/
+@[category research solved, AMS 22 57]
+theorem hilbert_fifth_problem
+    [IsTopologicalGroup G]
+    [ChartedSpace (EuclideanSpace ℝ (Fin n)) G] [T2Space G] [LocallyConnectedSpace G] :
+    LieGroup (𝓡 n) ⊤ G := by
+  sorry
+
+end HilbertSmith
```
Comment (mo271) [inline FormalConjectures/HilbertProblems/5.lean]:
```suggestion
end Hilbert5
```

File: FormalConjectures/Wikipedia/HilbertFifthProblem.lean
Comment (mo271) [inline FormalConjectures/Wikipedia/HilbertFifthProblem.lean:1]: not sure we need this file at all, but if we keep it make it import only, like is done in https://github.com/google-deepmind/formal-conjectures/pull/3608

File: FormalConjectures/HilbertProblems/5.lean [hunk 4]
```diff
@@ -0,0 +1,116 @@
...
+    (hfaithful : ∀ g₁ g₂ : PadicInt p, (∀ x : X, g₁ +ᵥ x = g₂ +ᵥ x) → g₁ = g₂) :
+    False := by
+  sorry
+
+/-- **Hilbert's fifth problem** (Gleason–Montgomery–Zippin, 1952): every locally Euclidean
+topological group is a Lie group. -/
+@[category research solved, AMS 22 57]
+theorem hilbert_fifth_problem
+    [IsTopologicalGroup G]
+    [ChartedSpace (EuclideanSpace ℝ (Fin n)) G] [T2Space G] [LocallyConnectedSpace G] :
```
Comment (mo271) [inline FormalConjectures/HilbertProblems/5.lean]:
```suggestion
    [ChartedSpace (EuclideanSpace ℝ (Fin n)) G] :
```
This is implied by `ChartedSpace (EuclideanSpace ℝ (Fin n)) G`, right?

File: FormalConjectures/HilbertProblems/5.lean [hunk 5]
```diff
@@ -0,0 +1,116 @@
...
+    AdmitsLieGroupStructure G := by
+  sorry
+
+/-- Equivalent p-adic formulation: the p-adic integers `ℤ_[p]` cannot act continuously and
+faithfully on any connected finite-dimensional topological manifold. By the Gleason–Yamabe
+theorem, this is equivalent to `hilbert_smith_conjecture`. -/
+@[category research open, AMS 22 57 58]
+theorem hilbert_smith_padic_formulation (p : ℕ) [Fact p.Prime]
+    [AddAction (PadicInt p) X] [ContinuousVAdd (PadicInt p) X]
+    (hfaithful : ∀ g₁ g₂ : PadicInt p, (∀ x : X, g₁ +ᵥ x = g₂ +ᵥ x) → g₁ = g₂) :
```
Comment (mo271) [inline FormalConjectures/HilbertProblems/5.lean]:
```suggestion
    [FaithfulVAdd (PadicInt p) X]  :
```

I think this is equivalent and more idiomatic?

**Review by mo271 — APPROVED** [review]
LGTM now, just a few more little remarks

File: FormalConjectures/HilbertProblems/5.lean (hunk 5 above)
Comment (goyaladitya05) [reply FormalConjectures/HilbertProblems/5.lean]: agreed. will change it.

File: FormalConjectures/Wikipedia/HilbertFifthProblem.lean
Comment (goyaladitya05) [reply FormalConjectures/Wikipedia/HilbertFifthProblem.lean:1]: okay

File: FormalConjectures/HilbertProblems/5.lean (hunk 4 above)
Comment (goyaladitya05) [reply FormalConjectures/HilbertProblems/5.lean]: changed it.

**Comment by goyaladitya05** [comment]
@mo271 I've done the changes.

**Review by mo271 — APPROVED** [review]
Thanks again!
